* 1 MHz-class portable DAQ analog front end -- AC study template
Vsig in 0 AC 1
Rsrc in aa1 50
Raa1 aa1 n1 {RAA1}
Caa1 n1 0 {CAA1}
Eiso n1buf 0 n1 0 1
Raa2 n1buf n2 {RAA2}
Caa2 n2 0 {CAA2}
Egain drive 0 n2 0 {GAIN}
Rout drive afe {ROUT}
Cload afe 0 {CLOAD}
Rload afe 0 1Meg
Vclk clk 0 0
Ssample afe hold clk 0 SAMPLE
.model SAMPLE SW(Ron={RSW} Roff=1G Vt=1.65 Vh=0.1)
Chold hold 0 {CHOLD}
Cadc hold 0 {CADC}
Rleak hold 0 20Meg
.ac dec 120 1k 100Meg
.end
