100MHz DAQ candidate - model-level feasibility only
.options plotwinsize=0 numdgt=7 reltol=1e-5 gshunt=1e-10
.temp 27
VIN src 0 DC 0 AC 1
.include "models/OPA817_ltspice.lib"
.include "models/LMH5401.lib"
.include "models/LMH6401_ltspice.lib"
VPB vpb 0 6
VNB vnb 0 -6
VPA vpa 0 3.9
VNA vna 0 -1.1
VCM cm 0 1.4
VLOG logic 0 2.5
RSRC src conn 50
RIN conn 0 1Meg
RLINK conn buf 0.001
CPORT conn 0 10p
CPROT buf 0 0.3p
XBUF buf bout bout vpb vnb OPA817
RGP bout ip 49.9
RGN 0 im 49.9
RFP fp im 174
RFN fn ip 174
XFDA op om fp fn ip im cm 0 vpa vna 0 LMH5401
XVGA logic 0 logic 0 logic 0 om op vgam vgap 0 vpa vna cm LMH6401
RSP vgap filp 40
RSM vgam film 40
L1p filp p1 2.21095726677e-08 Rser=0.289413629445
CL1p filp p1 0.1p
L1m film m1 2.21095726677e-08 Rser=0.289413629445
CL1m film m1 0.1p
C2 p1 m1 1.27323954474e-11 Rser=0.05 Lser=0.2n
L3p p1 p3 9.75358078004e-08 Rser=1.27674073853
CL3p p1 p3 0.1p
L3m m1 m3 9.75358078004e-08 Rser=1.27674073853
CL3m m1 m3 0.1p
C4 p3 m3 2.39290760936e-11 Rser=0.05 Lser=0.2n
L5p p3 p5 1.27323954474e-07 Rser=1.66666666667
CL5p p3 p5 0.1p
L5m m3 m5 1.27323954474e-07 Rser=1.66666666667
CL5m m3 m5 0.1p
C6 p5 m5 2.39290760936e-11 Rser=0.05 Lser=0.2n
L7p p5 p7 9.75358078004e-08 Rser=1.27674073853
CL7p p5 p7 0.1p
L7m m5 m7 9.75358078004e-08 Rser=1.27674073853
CL7m m5 m7 0.1p
C8 p7 m7 1.27323954474e-11 Rser=0.05 Lser=0.2n
L9p p7 adcp 2.21095726677e-08 Rser=0.289413629445
CL9p p7 adcp 0.1p
L9m m7 adcm 2.21095726677e-08 Rser=0.289413629445
CL9m m7 adcm 0.1p
RADC adcp adcm 100
CADC adcp adcm 2e-12
CXp filp adcp 1e-15
CXm film adcm 1e-15
EDIFF diff 0 adcp adcm 1
.ac dec 240 1k 2G
.save V(src) V(adcp) V(adcm) V(diff) V(conn) V(buf) V(bout) V(op) V(om) V(vgap) V(vgam)
.end
